US06498251B1
Synthesis Example 43d 4-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)piperidine-1-carboxylic Acid Benzyl Ester
2-(1-Benzyl-piperidin-4-yl)-1,2,3,4-tetrahydroisoquinoline (280 mg, 0.90 mmol), benzyloxycarbonyl chloride (310 mg, 1.8 mmol) and potassium bicarbonate (230 mg, 2.3 mmol) were stirred at room temperature for 23 hours in dichloromethane (5 ml). The reaction solution was mixed with dichloromethane, washed with water and saturated brine and the dried with anhydrous sodium sulfate. The solvent was removed by evaporation from the organic layer under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 300 mg (0.86 mmol, 96% in yield) of the title compound.

reactant | 2-(1-Benzyl-piperidin-4-yl)-1,2,3,4-tetrahydroisoquinoline | 0.90 mmol, 280 mg | C(C1=CC=CC=C1)N1CCC(CC1)N1CC2=CC=CC=C2CC1 | C21H26N2
reactant | benzyloxycarbonyl chloride | 1.8 mmol, 310 mg | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | potassium bicarbonate | 2.3 mmol, 230 mg | C([O-])(O)=O.[K+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)piperidine-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1CC2=CC=CC=C2CC1 | C22H26N2O2
